US08685975B2
To a solution of 2-(4-(2H-1,2,3-triazol-2-yl)phenyl)-2-methoxyacetic acid (1.19 g, 5.1 mmol in anhydr CH2Cl2 (15 ml) was added 4-methylmorpholine (1.55 g, 15.3 mmol) and it was cooled over an ice bath. Isobutylchloroformate (0.84 g, 6.12 mmol) was added and stirred for 45 min. N,O-Dimethylhydroxylamine HCl (0.746 g, 7.65 mmol) was added and the mixture was allowed to stir overnight while warming to room temp. Saturated aqueous NaHCO3 (15 ml) was added and stirred for 5 min. The organic layer was dried over Na2SO4 and evaporated to dryness. Purification by chromatography (100% EtOAc) gave 2-(4-(2H-1,2,3-triazol-2-yl)phenyl)-N,2-dimethoxy-N-methylacetamide as a white solid (0.63 g, 44% yield).

reactant | 2-(4-(2H-1,2,3-triazol-2-yl)phenyl)-2-methoxyacetic acid | N=1N(N=CC1)C1=CC=C(C=C1)C(C(=O)O)OC | C11H11N3O3
reactant | 4-methylmorpholine | 15.3 mmol, 1.55 g | CN1CCOCC1 | C5H11NO
reactant | Isobutylchloroformate | 6.12 mmol, 0.84 g | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | N,O-Dimethylhydroxylamine HCl | 7.65 mmol, 0.746 g | Cl.CNOC
reactant | NaHCO3 | 15 ml | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-(2H-1,2,3-triazol-2-yl)phenyl)-N,2-dimethoxy-N-methylacetamide | 0.63 g, 44% yield | N=1N(N=CC1)C1=CC=C(C=C1)C(C(=O)N(C)OC)OC | C13H16N4O3
